### PR TITLE
two lemmas from infotheo

### PR DESCRIPTION
**Pull request by affeldt-aist**
they are defined here https://github.com/affeldt-aist/infotheo/blob/master/lib/classical_sets_ext.v#L40-L53
and used in infotheo and monae, they may be of more general interest, at the very least this PR could help
us minimize dependencies from monae (see discussion https://github.com/affeldt-aist/monae/issues/56)

### CODE REVIEW

**Review by CohenCyril — APPROVED** [review]

File: theories/classical_sets.v [hunk 1]
```diff
@@ -851,14 +851,27 @@ Qed.
...
+  \bigcup_(x in f @` P) F x = \bigcup_(x in P) F (f x).
+Proof.
+rewrite eqEsubset; split=> x; first by case=> j [] i pi <- Xfix; exists i.
+by case=> i Pi Ffix; exists (f i); [exists i|].
+Qed.
+
+Lemma bigcup_of_set1 {rT I} (P : set I) (f : I -> rT) :
+  \bigcup_(x in P) [set f x] = f @` P.
+Proof.
+by rewrite eqEsubset; split=> [a [i ?]->| a [i ?]<-]; [apply imageP | exists i].
```
Comment (CohenCyril) [inline theories/classical_sets.v:872]:
```suggestion
by rewrite eqEsubset; split=> [a [i ?]->| a [i ?]<-]; [apply: imageP | exists i].
```
